US07645753B2
2-(3,5-Dibromo-phenyl)-[1,3]dioxolane
A suspension of 3,5-dibromo-benzaldehyde (20.0 g, 75.8 mmol, 1.0 equiv; [CAS RN 56990-02-4]), ethane-1,2-diol (12.7 mL, 14.1 g, 227.3 mmol, 3.0 equiv) and p-toluene sulfonic acid monohydrate (0.29 g, 1.52 mmol, 0.02 equiv) in toluene (50 mL) was heated to reflux under Dean-Stark conditions for 1 h. The reaction mixture was extracted with ethyl acetate (3×200 mL), the combined organic phases washed with a sat. solution of sodium carbonate (4×50 mL) and dried over MgSO4. Removal of the solvent by evaporation under reduced pressure yielded 23.3 g (100%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 4.00-4.12 (m, 4H), 5.76 (s, 1H), 7.55-7.56 (m, 2H), 7.65-7.66 (m, 1H). MS (EI): 306.8 [M]+.

reactant | 3,5-dibromo-benzaldehyde | 75.8 mmol, 20.0 g, 1.0 equiv | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
reactant | ethane-1,2-diol | 227.3 mmol, 12.7 mL, 14.1 g, 3.0 equiv | C(CO)O | C2H6O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluene sulfonic acid monohydrate | 1.52 mmol, 0.29 g, 0.02 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(3,5-Dibromo-phenyl)-[1,3]dioxolane | 23.3 g, 100% | BrC=1C=C(C=C(C1)Br)C1OCCO1 | C9H8Br2O2
